US07713982B2
d) 3-Butyl-8-chloro-1-ethyl-3,7-dihydro-1H-purine-2,6-dione
3-Butyl-1-ethyl-3,7-dihydro-1H-purine-2,6-dione (100 mg, 0.42 mmol) and NCS (56 mg, 0.42 mmol) were suspended in MeCN (5 mL) and heated at 120° C. under microwave irradiation. The reaction mixture was concentrated under reduced pressure and the title compound isolated using HPLC. [HPLC conditions used for the purification: 23 minute run time. Solvents: 0.1% TFA in MeCN and 0.1% TFA in water. MeCN increased from 5% to 95% linearly over 15 minutes. Held at 95% for 2 min. Then decreased to 5% linearly over 1 min., equilibrated at 5% for 5 minutes before next injection.]; 1H NMR (400 MHz; CDCl3) δ: 0.97 (3H, t), 1.31 (3H, t), 1.38-1.45 (2H, m), 1.72-1.80 (2H, m), 4.09-4.20 (4H, m), 13.40 (1H, br.s); m/z 271 [MH+].

reactant | 3-Butyl-1-ethyl-3,7-dihydro-1H-purine-2,6-dione | 0.42 mmol, 100 mg | C(CCC)N1C(N(C(C=2NC=NC12)=O)CC)=O | C11H16N4O2
reactant | NCS | 0.42 mmol, 56 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 3-Butyl-8-chloro-1-ethyl-3,7-dihydro-1H-purine-2,6-dione | C(CCC)N1C(N(C(C=2NC(=NC12)Cl)=O)CC)=O | C11H15ClN4O2
